US05942530
C. Preparation of 2,6-dimethyl-4-hydroxy-benzaldehyde
4-Allyloxy-2,6-dimethyl-benzaldehyde, 9.67 g (50.9 mmole), 1.14 g (5.09 mmole) of palladium II acetate, and 8.00 g (30.5 mmole) of triphenylphosphine was mixed in a flask. Formic acid, 2.11 ml (56 mmole), was added and the mixture was swirled in a 80° oil bath. Within 15 seconds the reaction exothermed and turned very dark. The gum was dissolved in ethyl acetate, washed once in sodium bicarbonate, once in water, and once in brine then chromatographed on 350 ml silica, using 20%, then 40% ethyl acetate/hexane. Fractions were bulked and crystallize from methylene chloride/hexane to give 3.90 g (51%) of subtitled product which was used without further purification.

reactant | 4-Allyloxy-2,6-dimethyl-benzaldehyde | C(C=C)OC1=CC(=C(C=O)C(=C1)C)C | C12H14O2
reactant | triphenylphosphine | 30.5 mmole, 8.00 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Formic acid | C(=O)O | CH2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium II acetate | 5.09 mmole, 1.14 g | CC(=O)O.CC(=O)O.[Pd]
product | 2,6-dimethyl-4-hydroxy-benzaldehyde | 3.90 g, 51% | CC1=C(C=O)C(=CC(=C1)O)C | C9H10O2
